US08981101B2
Preparation of 5-bromoisoquinolin-1-ylamine
3.2 47 μl (0.61 mmol) of methanesulfonyl chloride is added dropwise with ice-cooling to a suspension of 112.0 mg (0.50 mmol) of 5-bromoisoquinoline 2-oxide in 0.48 ml of pyridine. The reaction mixture is stirred at room temperature for 18 hours. 685 μl of ethanolamine are then added dropwise with ice-cooling, and the mixture is stirred at room temperature for a further 4 hours. The reaction mixture is poured into ice-water and stirred for 30 minutes. The precipitate formed is filtered off with suction, washed with water and dried in vacuo: 5-bromoisoquinolin-1-ylamine as yellow crystals; HPLC/MS: 1.26 min, [M+H] 223/225.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-bromoisoquinoline 2-oxide | 0.50 mmol, 112.0 mg | BrC1=C2C=C[N+](=CC2=CC=C1)[O-] | C9H6BrNO
reactant | ethanolamine | 685 μl | C(O)CN | C2H7NO
solvent | pyridine | 0.48 ml | N1=CC=CC=C1 | C5H5N
product | 5-bromoisoquinolin-1-ylamine | BrC1=C2C=CN=C(C2=CC=C1)N | C9H7BrN2
